US06048877
3,4-Dihydro-6-[[4-(1-methyletyl)phenyl]methoxy]-2-[2-(4-phenyl-1-piperidinyl)ethyl]-1(2H)-naphthalenone;
3,4-Dihydro-5-(phenylmethoxy)-2-[2-(4-phenyl-1-piperidinyl)ethyl]-1(2H)-naphthalenone, trifluoroacetate (1:1);

reactant | 3,4-Dihydro-5-(phenylmethoxy)-2-[2-(4-phenyl-1-piperidinyl)ethyl]-1(2H)-naphthalenone | C1(=CC=CC=C1)COC1=C2CCC(C(C2=CC=C1)=O)CCN1CCC(CC1)C1=CC=CC=C1 | C30H33NO2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 3,4-Dihydro-6-[[4-(1-methyletyl)phenyl]methoxy]-2-[2-(4-phenyl-1-piperidinyl)ethyl]-1(2H)-naphthalenone | CC(C)C1=CC=C(C=C1)COC=1C=C2CCC(C(C2=CC1)=O)CCN1CCC(CC1)C1=CC=CC=C1 | C33H39NO2
